US06159962
e) N-(1-Naphthyl)piperazine
83.2 g (966 mM [sic]) of piperazine, 38.0 g (339 mM [sic]) of potassium tert-butoxide and 50.0 g (241 mM [sic]) of 1-bromonaphthalene were added to a mixture of 5.4 g (24.2 mM [sic]) of palladium acetate and 14.7 g (48.3 mM [sic]) of tri-o-tolylphosphine in 500 ml of xylene, and the mixture was refluxed while stirring vigorously under a nitrogen atmosphere for 10 h. The mixture was then diluted with methylene chloride, the insoluble residues were filtered off, and the filtrate was concentrated. The crude product was purified by column chromatography (silica gel, eluent THF/methanol/ammonia 85/13/2). 21.5 g (42%) of product were isolated with melting point 84-86° C.

reactant | piperazine | 966 mM, 83.2 g | N1CCNCC1 | C4H10N2
reactant | potassium tert-butoxide | 339 mM, 38.0 g | CC(C)([O-])C.[K+]
reactant | 1-bromonaphthalene | 241 mM, 50.0 g | BrC1=CC=CC2=CC=CC=C12 | C10H7Br
reactant | tri-o-tolylphosphine | 48.3 mM, 14.7 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | xylene | 500 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | palladium acetate | 24.2 mM, 5.4 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-(1-Naphthyl)piperazine | 21.5 g, 42% | C1(=CC=CC2=CC=CC=C12)N1CCNCC1 | C14H16N2
